US06559141B2
A stock solution of 567 mg (1.48 mmol) PP-HOBT in 8.5 mL DMF (approximately 0.175 M PP-HOBT in DMF) was prepared and 0.81 g (0.86 mL, 150 umol) of this PP-HOBT solution was added to each of the nine round-bottom vessels containing the products from Step B. Clear solutions were obtained for all, except where the linked amino acid was alpha amimo isobuttric acid. In the case, an additional 0.86 mL of DMF was added but still the mixture remained heterogeneous. The contents of each of the nine round bottoms “n” (where n=1 to 9) were divide into four aqual portions (approximately 37 umols each) and placed in vials. Stock solutions (0.1 M) of the carboxylic acids were then made up in 10% DMF/DCM. The appropriate stock solution (0.3 mL, 30 umol) was then added to each of the vials. A 0.1 M stock solution (20 mL) of EDC hydrochloride in DMF was prepared. This stock solution (0.4 mL, 40 umol) was then added to each of the vials which were then capped and put on a rotator for 12 hours. Normal SCX workup and evaporation of solvent afforded products as white solids or clear to light caramel resins. Each of these products was taken up in methanol/chloroform and divided into three tared vials, plus a vial for MS and HPLC characterization. After evaporation of solvent, the final weights in each vial were determined. Product identity was verified by ionspray mass spec and purity assessed by reverse phase HPLC.

reactant | aqual | CC1=CC=CC=C1N2C(=NC3=CC=CC=C3C2=O)C | C16H14N2O
reactant | DMF DCM | CN(C)C=O.C(Cl)Cl
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | DMF | 0.86 mL | CN(C)C=O | C3H7NO
product | EDC hydrochloride | 20 mL | CCN=C=NCCCN(C)C.Cl | InChI=1S/C8H17N3.ClH/c1-4-9-8-10-6-5-7-11(2)3;/h4-7H2,1-3H3;1H
